US04237305
p-Hydroxyacetophenone (13.6 g.), 1,3-dibromopropane (121.2 g.) and potassium carbonate (15.8 g.) were dissolved in acetone (250 ml.), and the solution was refluxed under heating for 6 hours. After the reaction mixture was filtered, the acetone was removed by evaporation from the filtrate under reduced pressure to give an oily residue. The excess of 1,3-dibromopropane was removed by distillation from the oily residue under reduced pressure to give a residue, which was subjected to column chromatography on silica gel (20 g.). Elution was carried out with benzene and the fractions containing a desired compound were collected. The eluate was evaporated to dryness under reduced pressure to give p-(3-bromopropoxy)acetophenone (18 g.).

reactant | p-Hydroxyacetophenone | 13.6 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 1,3-dibromopropane | 121.2 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 15.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | p-(3-bromopropoxy)acetophenone | 18 g | BrCCCOC1=CC=C(C=C1)C(C)=O | C11H13BrO2
